US07635700B2
To a stirred suspension of 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.44 g, 1.3 mmol) and triethylamine (0.25 mL, 1.8 mmol) in THF (8 mL) at 5˜10° C., was added 4-chlorophenyl isocyanate (0.21 mL, 1.7 mmol) and stirred for ten minutes. Then the mixture was stirred at room temperature overnight. The mixture was quenched with methanol (˜1 mL), and the solvent was evaporated. The residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 1-(4-chloro-phenyl)-3-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-urea as a yellow solid (390 mg, 66% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 6.34 min (98.7%); mp, 255-257° C.; 1HNMR (DMSO-d6) 2.17-2.23 (m, 1H, CHH), 2.59-2.94 (m, 6H, CHCH2, CH3), 4.72 (d, J=6 Hz, 2H, CH2NH), 5.27 (dd, J=6, 11 Hz, 1H, CH), 6.65 (t, J=5 Hz, 1H, CH2NH), 7.21-7.78 (m, 7H, Ar), 8.92 (s, 1H, NH), 11.04 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.70, 23.31, 30.62, 42.30, 56.51, 117.81, 119.02, 124.42, 125.77, 126.21, 128.42, 133.99, 139.47, 141.32, 148.50, 154.76, 154.88, 161.02, 169.49, 172.65. LCMS MH=454, 456; Anal Calcd For C22H20N5O4Cl: C, 58.22; H, 4.44; N, 15.43; Cl, 7.81. Found: C, 58.11; H, 4.24; N, 15.16; Cl, 7.80.

reactant | 3-(5-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.3 mmol, 0.44 g | Cl.NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O
reactant | triethylamine | 1.8 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenyl isocyanate | 1.7 mmol, 0.21 mL | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 1-(4-chloro-phenyl)-3-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-5-ylmethyl]-urea | 390 mg, 66% yield | ClC1=CC=C(C=C1)NC(=O)NCC1=C2C(N(C(=NC2=CC=C1)C)C1C(NC(CC1)=O)=O)=O | C22H20ClN5O4
